US08466167B2
A solution of 3-bromo-6-chloro-5-methylpicolinonitrile (from the previous step) in THF (0.2 M) was cooled to −78° C. LDA (2N solution, 2 eq) was added dropwise. The reaction was kept stirring at −78° C. for 1 hour, followed by addition of benzaldehyde (1 eq). The reaction was kept stirring at −78° C. for another 30 minutes before allowing it to slowly warm to room temperature. The reaction was quenched with sat. NH4Cl and extracted with EtOAc. Combined organic washes were concentrated. Flash chromatography (silica gel, 20-50% EtOAc in hexanes) afforded the product 3-bromo-6-chloro-5-(2-hydroxy-2-phenylethyl)picolinonitrile as a yellow solid.

reactant | 3-bromo-6-chloro-5-methylpicolinonitrile | BrC=1C(=NC(=C(C1)C)Cl)C#N | C7H4BrClN2
reactant | LDA | 2N, 2 eq | [Li+].CC(C)[N-]C(C)C
reactant | benzaldehyde | 1 eq | C(C1=CC=CC=C1)=O | C7H6O
solvent | THF | 0.2 M | C1CCOC1 | C4H8O
product | 3-bromo-6-chloro-5-(2-hydroxy-2-phenylethyl)picolinonitrile | BrC=1C(=NC(=C(C1)CC(C1=CC=CC=C1)O)Cl)C#N | C14H10BrClN2O
